US07282588B2
1,1-dimethylethyl {4-[2-(1H-pyrrolo[2,3-b]pyridin-4-yl)-3-thienyl]phenyl}carbamate
To a solution of 4-(3-bromo-2-thienyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine (5.3 mmol) in 40 mL of 1,2-dimethoxyethane was added 4-(N-Boc-amino)phenyl boronic acid (13.8 mmol), tetrakis(triphenylphosphine)palladium(0), (0.17 mmol), water (16 mL) and barium hydroxide (21.2 mmol). The reaction was heated at 80° C. for 36 h. The 1,2-dimethoxyethane was evaporated and the residue taken up in ethyl acetate and washed with water (50 mL). The crude product was purified by silica gel chromatography (0-50% ethyl acetate/hexanes) to give the title compound (40%). ESMS [M+H]+: 392.2

reactant | 4-(3-bromo-2-thienyl)-1-[(4-methylphenyl)sulfonyl]-1H-pyrrolo[2,3-b]pyridine | 5.3 mmol | BrC1=C(SC=C1)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C18H13BrN2O2S2
reactant | 4-(N-Boc-amino)phenyl boronic acid | 13.8 mmol | C(=O)(OC(C)(C)C)NC1=CC=C(C=C1)B(O)O | C11H16BNO4
reactant | water | 16 mL | O | H2O
reactant | barium hydroxide | 21.2 mmol | [OH-].[Ba+2].[OH-]
solvent | 1,2-dimethoxyethane | 40 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.17 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl {4-[2-(1H-pyrrolo[2,3-b]pyridin-4-yl)-3-thienyl]phenyl}carbamate | 40% | N1C=CC=2C1=NC=CC2C=2SC=CC2C2=CC=C(C=C2)NC(OC(C)(C)C)=O | C22H21N3O2S
